US07851495B2
Method C: 3-[1-(2-Chloro-phenyl)-ethoxy]-5-(3-phenylamino-[1,2,4]triazol-1-yl)-thiophene-2-carboxylic acid amide (I-1)
3-[1-(2-Chloro-phenyl)-ethoxy]-5-(3-phenylamino-[1,2,4]triazol-1-yl)-thiophene-2-carboxylic acid methyl ester (66 mg, 0.15 mmol, 1.0 Eq.) was suspended in 7M NH3 in MeOH (10 mL) and heated to 100° C. in a pressure tube for 3 days. The solvent was removed in vacuo and the product isolated by column chromatography (10% MeOH/DCM) followed by tritruation from diethyl ether to give the title compound as an off-white solid (17 mg, 0.04 mmol, 27%); 1H NMR (400 MHz, d-6 DMSO) δ. 1.72 (3H, d), 5.88 (1H, q), 6.88 (1H, t), 7.03 (1H, br s), 7.26 (1H, s), 7.30 (2H, t), 7.36-7.43 (2H, m), 7.52 (1H, dd), 7.57 (2H, d), 7.66 (1H, dd), 7.75 (1H, br s), 9.02 (1H, br s), 9.65 (1H, s).

reactant | 3-[1-(2-Chloro-phenyl)-ethoxy]-5-(3-phenylamino-[1,2,4]triazol-1-yl)-thiophene-2-carboxylic acid methyl ester | 0.15 mmol, 66 mg, 1.0 Eq. | COC(=O)C=1SC(=CC1OC(C)C1=C(C=CC=C1)Cl)N1N=C(N=C1)NC1=CC=CC=C1 | C22H19ClN4O3S
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | NH3 | 7M | N | H3N
solvent | MeOH | 10 mL | CO | CH4O
product | 3-[1-(2-Chloro-phenyl)-ethoxy]-5-(3-phenylamino-[1,2,4]triazol-1-yl)-thiophene-2-carboxylic acid amide | 0.04 mmol, 17 mg, 27% | ClC1=C(C=CC=C1)C(C)OC1=C(SC(=C1)N1N=C(N=C1)NC1=CC=CC=C1)C(=O)N | C21H18ClN5O2S
